US07790724B2
a) 4-Amino-3-bromo-benzonitrile
The title compound was prepared from 4-aminobenzonitrile (2.04 g, 17.2 mmol) and NBS (3.07 g, 17.2 mmol) according to the procedure in Example 16, step (b) (2.53 g, 75%). Mass Spectrum (ESI, m/z): Calcd. for C7H5BrN2, 196.9 (M+H), found 196.7.

reactant | 4-aminobenzonitrile | 17.2 mmol, 2.04 g | NC1=CC=C(C#N)C=C1 | C7H6N2
reactant | NBS | 17.2 mmol, 3.07 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 4-Amino-3-bromo-benzonitrile | NC1=C(C=C(C#N)C=C1)Br | C7H5BrN2
